US07420001B2
To 60 mg (0.24 mmol) 3-methyl-4-phenyl-benzofuran-2-carboxylic acid was added 1 mL of oxalyl chloride and the mixture was refluxed for 1 h in the presence of a catalytic amount of DMF, then the excess oxalyl chloride was removed under vacuum. The residue was dissolved in 1 mL of dichloromethane and was added to a mixture of 129 mg (0.36 mmol) of (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester, 87 mg (0.714 mmol) of 4-(dimethylamino)pyridine and 2 mL of in an ice/water bath. The mixture was stirred at room temperature overnight. All the solvents were removed under vacuum. Column chromatography on silica gel gave 41 mg (29% yield) of (S)-3-methyl-2-{4′-[(3-methyl-4-phenyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid methyl ester as white solid.

reactant | 3-methyl-4-phenyl-benzofuran-2-carboxylic acid | 0.24 mmol, 60 mg | CC1=C(OC2=C1C(=CC=C2)C2=CC=CC=C2)C(=O)O | C16H12O3
reactant | oxalyl chloride | 1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester | 0.36 mmol, 129 mg | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C18H22N2O4S
catalyst | 4-(dimethylamino)pyridine | 0.714 mmol, 87 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-3-methyl-2-{4′-[(3-methyl-4-phenyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid methyl ester | 41 mg, 29% yield | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=CC=C2)C2=CC=CC=C2)=O | C34H32N2O6S
